US07094800B2
1g) di-tert-butyl (2S,5S)-5-(2-benzylamino-2-carbamoylethyl)pyrrolidine-1,2-dicarboxylate
2.6 g of di-tert-butyl (2S,5S)-5-(2-benzylamino-2-cyanoethyl)pyrrolidine-1,2-dicarboxylate were dissolved in 6.5 ml of dimethyl sulfoxide. 373 mg of finely ground potassium carbonate and 1.08 ml of a 30% strength hydrogen peroxide solution were added thereto. The mixture was stirred at room temperature for 14 h and was then heated at 35° C. for 30 min. The solution was diluted with 60 ml of water and extracted 3 times with 100 ml of ethyl acetate each time. The combined organic phases were washed once with 120 ml of a saturated sodium chloride solution and dried with sodium sulfate. The solvents were removed in vacuo, and the residue was chromatographed on silica gel.

reactant | di-tert-butyl (2S,5S)-5-(2-benzylamino-2-cyanoethyl)pyrrolidine-1,2-dicarboxylate | 2.6 g | C(C1=CC=CC=C1)NC(C[C@@H]1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C#N | C24H35N3O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulfoxide | 6.5 ml | CS(=O)C | C2H6OS
solvent | water | 60 ml | O | H2O
product | di-tert-butyl (2S,5S)-5-(2-benzylamino-2-carbamoylethyl)pyrrolidine-1,2-dicarboxylate | C(C1=CC=CC=C1)NC(C[C@@H]1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(N)=O | C24H37N3O5
